US09085540B2
A mixture of 5-chloro-6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide (21 mg), 2,7-diazaspiro[4.4]nonane-2-carboxylic acid-tert-butyl ester (41 mg), diisopropylethylamine (16 μL), and N-methylpyrrolidone (0.3 mL) was stirred at 140° C. for 2 hours and a half. To the reaction mixture was added PS-isocyanate (Biotage, 100 mg) at room temperature, N,N-dimethylformamide (1 mL) was added thereto, followed by stirring for 2 hours, and the insoluble matter was filtered. The filtrate was evaporated under reduced pressure and the obtained residue were added methanol (0.5 mL) and a 4 M hydrogen chloride-dioxane solution (0.45 mL), followed by stirring at room temperature for 8 hours. The solvent was evaporated under reduced pressure and the obtained residue were added tetrahydrofuran (0.9 mL) and a saturated aqueous sodium hydrogen carbonate solution (1 mL). Acryloyl chloride (8 μL) and tetrahydrofuran (0.1 mL) were added thereto at room temperature, followed by stirring for 4 hours. The reaction mixture was extracted with chloroform. The solvent of the organic phase was evaporated under reduced pressure and the obtained residue was purified by preparative HPLC (methanol/0.1% aqueous formic acid solution) to obtain 5-(7-acryloyl-2,7-diazaspiro[4.4]non-2-yl)-6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide (2 mg).

reactant | 5-chloro-6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide | 21 mg | ClC=1N=C(C(=NC1CC)C(=O)N)NC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C | C23H32ClN7O
reactant | 2,7-diazaspiro[4.4]nonane-2-carboxylic acid-tert-butyl ester | 41 mg | C(C)(C)(C)OC(=O)N1CC2(CC1)CNCC2 | C12H22N2O2
reactant | diisopropylethylamine | 16 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | isocyanate | 100 mg | [N-]=C=O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | N-methylpyrrolidone | 0.3 mL | CN1C(CCC1)=O | C5H9NO
product | 5-(7-acryloyl-2,7-diazaspiro[4.4]non-2-yl)-6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide | 2 mg | C(C=C)(=O)N1CC2(CCN(C2)C=2N=C(C(=NC2CC)C(=O)N)NC2=CC=C(C=C2)N2CCC(CC2)N2CCN(CC2)C)CC1 | C33H47N9O2
